* source PROJECT2
X_U1         N14536 0 N14488 N14484 N14499 N14536 TPS561208_TRANS PARAMS:
+  STEADY_STATE=0
C_C1         N14484 N14488  100n  TC=0,0 
C_C2         0 N14536  10u  TC=0,0 
L_L1         N14488 N14492  3.3uH  
R_R1         N14499 N14492  33.2k TC=0,0 
R_R2         0 N14499  10k TC=0,0 
C_C3         0 N14492  47u  TC=0,0 
V_V1         N14536 0 12Vdc
